US04824958
Methyl 3-hydroxy-1H-pyrrole-2-carboxylate.
Prepared by the method described in Example 101 from methyl glycinate (22 g, 0.25 moles), methyl α-chloroacrylate (29.8 g, 0.25 moles), and sodium (17 g, 0.74 moles). Following filtration through silica gel and evaporation of the filtrate, the product is obtained pure and crystalline (18.6 g ; mp 100°-102° C.

reactant | methyl glycinate | 0.25 moles, 22 g | NCC(=O)OC | C3H7NO2
reactant | methyl α-chloroacrylate | 0.25 moles, 29.8 g | ClC(C(=O)OC)=C | C4H5ClO2
reactant | sodium | 0.74 moles, 17 g | [Na] | Na
product | Methyl 3-hydroxy-1H-pyrrole-2-carboxylate | OC1=C(NC=C1)C(=O)OC | C6H7NO3
